* C:\Users\moatjon\Documents\applikon\software\simulatie\3orde_butterworth.asc
V§AC1 2V5 0 SINE(1 1 1k) AC AC 1
V2 3V3 0 3.3
XU2 N003 N002 3V3 0 N002 LTC6241
R3 N001 N003 10k
R4 2V5 N001 10k
C2 N003 0 10µ
C3 N002 N001 10µ
R5 Vout N002 10k
C1 Vout 0 10µ
.ac dec 1000 100m 100Meg
* Second Order
* First Order
* Third Order
.lib LTC4.lib
.backanno
.end
