* C:\Users\moatjon\Documents\applikon-sb\software\simulatie\3orde_butterworth_hp.asc
V§AC1 2V5 0 SINE(1 1 1M) AC AC 1
V2 3V3 0 3.3
XU2 N003 N002 3V3 0 N002 LTC6241
R3 0 N003 220k
R4 N001 N002 220k
C2 N003 N001 10n
C3 N001 2V5 10n
R5 0 Vout 220k
C1 Vout N002 10n
.ac dec 1000 100m 100Meg
* Second Order
* First Order
* Third Order
.lib LTC4.lib
.backanno
.end
