* C:\Users\moatjon\Documents\applikon\software\simulatie\do_butterworth.asc
V2 3V3 0 3.3
R1 N002 N001 2Meg tol=0.1 pwr=0.25
R2 N001 2V5 10k
C1 N001 0 10n V=10
V3 1V8195 0 1.8195
XU1 1V8195 N001 3V3 0 N002 LTC6241
V§AC1 2V5 0 SINE(1 1 1k) AC AC 1
XU2 N005 N004 3V3 0 N004 LTC6241
R4 N003 N005 10k
R5 N002 N003 10k
C3 N005 0 10µ
C4 N004 N003 10µ
R6 Vout N004 10k
C5 Vout 0 10µ
* Fc = 1.5kHz
* A = -2M
* V(DO) = 1.82 - I(in) * 2M
.ac dec 1000 10m 100Meg
* Second Order
* First Order
* Third Order
* fc = 1/ (2*pi* RC) [Hz]
* Fc = 1.6Hz
.lib LTC4.lib
.backanno
.end
