* C:\Users\moatjon\Documents\applikon\software\simulatie\ltspice_rc.asc
V2 2VDC5 0 2.5
V1 3V3 0 3.3
R1 N002 N001 2Meg tol=0.1 pwr=0.25
R2 N001 Iin 10k
C1 N001 0 10n V=10
R3 Vout N002 10k tol=1 pwr=0.25
C2 Vout 0 10µ V=10
V3 1V8195 0 1.8195
V4 Vres 0 1Meg
XU4 1V8195 N001 3V3 0 N002 LTC6241
V§AC2 2V5 0 AC AC 1
I§AC1 0 Iin SINE(345 335 1k) AC AC
* Fc = 1.5kHz
* Fc = 1.6Hz
* A = -2M
* V(DO) = 1.82 - I(in) * 2M
* DO_res
.ac dec 1000 100m 100Meg
.lib LTC4.lib
.backanno
.end
